*cicsimgen dccmfb

.option SEED=1

*Nothing here

.param mc_mm_switch=0
.param mc_pr_switch=0
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/corners/tt/nonfet.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__npn_05v5__t.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/all.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice"

.lib "../../../tech/ngspice/temperature.spi" Tt

.lib "../../../tech/ngspice/supply.spi" Vt

*TB AHUJA_FDA — DC sweep nVcmfb to find quiescent point
.include ../../../work/xsch/AHUJA_FDA.spice
.option TNOM=27 reltol=1e-4 abstol=1e-12 vntol=1e-7

.param vcm = '0.9'

VSS    VSS    0    dc 0
VDD    VDD    0    dc {vdda}
VVIP   VIP    0    dc {vcm}
VVIN   VIN    0    dc {vcm}
VVCM   VCM    0    dc {vcm}
* IBIAS not used by current netlist; tie to VSS via a 1G to avoid floating port
RIBDUM IBIAS  VSS  1G

VVCMFB nVcmfb 0   dc 0.6

CLP    VOP    VSS  10p
CLN    VON    VSS  10p

.include ../xdut.spi

.save all

.control
set num_threads=8
unset askquit
set filetype=ascii

dc VVCMFB 0.5 1.6 0.025
let vocm = (v(VOP)+v(VON))/2

echo "==== nVcmfb sweep ===="
print v(v-sweep) v(VOP) v(VON) vocm v(xdut.apos) v(xdut.bpos) v(xdut.ntail)

write dccmfb_SchGtKttTtVt.raw
quit
.endc
.end

