*TB LELO_5TOTA_PMOS — DC Analysis (ICMR and OCMR)
*
*  ICMR sweep: VINP = VINN = VCM swept 0→VDD, output floating (R_load to mid-rail).
*    Lower limit: XM5 tail exits saturation (VDS5 < VDS5,sat)
*    Upper limit: XM3/XM4 PMOS VGS collapses (net2 follows VCM, mirror fails)
*    Detected by watching d(v(net1))/d(vcm) — net1 is the tail node;
*    when the tail or input pair leaves saturation, net1 stops tracking VCM.
*
*  OCMR sweep: VCM fixed at 0.9V, VOUT forced by VVOUT swept 0→VDD.
*    Lower limit: XM2 drain (=VOUT) hits XM2 source (net1) → XM2 triode
*    Upper limit: XM4 drain (=VOUT) hits XM4 source (VDD) → XM4 triode
*    Detected by watching @m.xdut.xm2[vds] and @m.xdut.xm4[vds].
*
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_5TOTA_PMOS_lpe.spi
#else
.include ../../../work/xsch/LELO_5TOTA_PMOS.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3 srcsteps=20
.temp 27

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD       = 1.8
.param ibias_val  = 6.26u

*-----------------------------------------------------------------
* POWER
*-----------------------------------------------------------------
VSS    VSS    0      dc 0
VDD    VDD    0      dc {AVDD}

*-----------------------------------------------------------------
* COMMON-MODE INPUT: VINP = VINN = VCM (tied, swept for ICMR)
*   Both inputs driven by same voltage source VVCM.
*   For the OCMR sweep, VVCM is altered to 0.9 V and VVOUT is swept.
*-----------------------------------------------------------------
VVCM   vcm_node  0   dc 0.9
VVINP  VINP      vcm_node  dc 0
VVINN  VINN      vcm_node  dc 0

*-----------------------------------------------------------------
* OUTPUT: forced to vcm_fixed (0.9 V) during ICMR sweep;
*         swept 0→1.8 V during OCMR sweep via alter+dc.
*-----------------------------------------------------------------
.param vcm_fixed = 0.9
VVOUT  VOUT   0    dc {vcm_fixed}

*-----------------------------------------------------------------
* BIAS
*-----------------------------------------------------------------
IIBIAS IBIAS VSS  dc {ibias_val}  $ PMOS diode: current drawn from IBIAS to VSS

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*-----------------------------------------------------------------
* NODESET — guide DC solver to the valid common-mode operating
*           point; prevents false convergence to rail clipping
*-----------------------------------------------------------------
.nodeset v(vout)       = 0.9
.nodeset v(vinp)       = 0.9
.nodeset v(vinn)       = 0.9
.nodeset v(xdut.net1)  = 0.45
.nodeset v(xdut.net2)  = 0.82
.nodeset v(ibias)      = 0.55

*-----------------------------------------------------------------
* SAVE
*-----------------------------------------------------------------
.save all
.save v(VOUT) v(VINP) v(VINN) v(xdut.net1) v(xdut.net2)
.save @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vds]
.save @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vds]
.save @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vds]
.save @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vds]
.save @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vdsat]

*-----------------------------------------------------------------
* NGSPICE CONTROL
*-----------------------------------------------------------------
.control
set num_threads=8
unset askquit
set filetype=ascii

*=================================================================
* SWEEP 1 — ICMR
*   Sweep VCM (VINP = VINN) from 0 to VDD.
*   VOUT is held at vcm_fixed (0.9 V) by VVOUT so XM2/XM4 stay
*   in a valid state throughout; only the input/tail path changes.
*
*   ICMR lower limit: XM5 tail needs VDS5 > VDS5,sat.
*     As VCM falls, net1 falls, VDS5 = v(net1) - 0 shrinks.
*     Limit ≈ VCM,min = VGS1 + VDS5,sat
*   ICMR upper limit: as VCM rises, PMOS VGS (= VDD - VCM - VGS1)
*     approaches zero and the mirror collapses.
*     Limit ≈ VCM,max = VDD - |VGS3| + Vtn
*
*   Detection: XM5 enters triode when VDS5 < VGS5 - Vtn5.
*     We watch @m.xdut.xm5[vds] directly — no Vth arithmetic.
*     ICMR = VCM range where xm5_vds > xm5_vdsat  AND
*                            xm1_vds > xm1_vdsat
*     Simplified: watch @m.xdut.xm5[vds] and find where it drops
*     below @m.xdut.xm5[vdsat] (ngspice: [vds] - [vdsat] > 0)
*=================================================================
dc VVCM 0 1.8 5m

* Save ICMR sweep as its own file so OCMR write doesn't overwrite it
write {cicname}_icmr.raw

* Saturation margins: positive = saturated, zero = boundary
let xm5_sat_margin = @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vds] - @m.xdut.xm5.msky130_fd_pr__pfet_01v8[vdsat]
let xm1_sat_margin = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vds] - @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]

* ICMR lower: XM5 first enters saturation as VCM rises from 0
*   (xm5_sat_margin crosses 0 going positive = RISE)
meas dc icmr_low   WHEN xm5_sat_margin = 0 RISE=1

* ICMR upper: XM1 first exits saturation as VCM rises further
*   (xm1_sat_margin crosses 0 going negative = FALL)
meas dc icmr_high  WHEN xm1_sat_margin = 0 FALL=1

let icmr_range = icmr_high - icmr_low

* Print ICMR immediately — sweep 2 will overwrite the current plot
echo ""
echo "  -- Input Common-Mode Range (XM5/XM1 saturation boundary) --"
echo ""
echo "  ICMR lower bound  (V) :"
print icmr_low
echo "  ICMR upper bound  (V) :"
print icmr_high
echo "  ICMR range        (V) :"
print icmr_range

*=================================================================
* SWEEP 2 — OCMR
*   Fix VCM = 0.9 V (VVCM stays at 0.9 V from before).
*   Now sweep VOUT via VVOUT from 0 to VDD.
*   VINP = VINN = 0.9 V throughout.
*
*   OCMR lower: XM2 drain = VOUT approaches XM2 source = net1
*     → XM2 enters triode when VDS2 < VDS2,sat
*   OCMR upper: XM4 drain = VOUT approaches XM4 source = VDD
*     → XM4 enters triode when |VDS4| < |VDS4,sat|
*=================================================================
alter VVCM dc = 0.9
dc VVOUT 0 1.8 5m

* Save OCMR sweep as {cicname}.raw — this is what dc.meas loads
write {cicname}.raw

* XM2: NMOS, VDS2 = v(vout) - v(xdut.net1), must be > vdsat2
let xm2_sat_margin = @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vds] - @m.xdut.xm2.msky130_fd_pr__pfet_01v8[vdsat]

* XM4: PMOS, VDS4 is negative; |VDS4| > |VDS4,sat| ↔ VDS4 < VDS4,sat
*   ngspice reports vds and vdsat for PMOS as negative numbers
let xm4_sat_margin = @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vds] - @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vdsat]

* OCMR lower: XM2 enters saturation as VOUT rises from 0 (RISE)
meas dc ocmr_low   WHEN xm2_sat_margin = 0 RISE=1

* OCMR upper: XM4 exits saturation as VOUT rises toward VDD (RISE for PMOS)
meas dc ocmr_high  WHEN xm4_sat_margin = 0 FALL=1

let ocmr_range = ocmr_high - ocmr_low

*=================================================================
* RESULTS — OCMR
*=================================================================
echo ""
echo "================================================"
echo "  5T OTA — DC ANALYSIS: ICMR / OCMR"
echo "================================================"
echo ""
echo "  -- Output Swing Range (XM2/XM4 saturation boundary) --"
echo ""
echo "  OCMR lower bound  (V) :"
print ocmr_low
echo "  OCMR upper bound  (V) :"
print ocmr_high
echo "  OCMR range        (V) :"
print ocmr_range
echo ""
echo "================================================"

quit
.endc

.end
